US08623887B2
C-1d (1S,2R)-2-(2-chloro-5-methyl-pyrimidin-4-ylamino)-cyclopentanecarboxylic acid isopropylamide
1 g (6.1 mmol, 1 eq) 5-methyl-2,4-dichloropyrimidine (prepared analogously to A-1a) are dissolved in 3 mL DMA and then 5.3 mL (30.5 mmol, 5 eq) Hünig base are added dropwise. 1.03 g (6.1 mmol, 1 eq) (1S,2R)-2-aminocyclopentanecarboxylic acid isopropylamide are added and the reaction mixture is stirred for 1 h at 70° C. HPLC monitoring shows that the reaction is total and only one regioisomer is formed. The reaction mixture is combined with RP gel, the volatile constituents are eliminated in vacuo, the product is purified by column chromatography through an RP phase and isolated (from water/MeCN (+0.2% HCOOH in each case) from 82/18 to 60/40 in 15 min). Corresponding product fractions are combined, freed from the solvent by freeze-drying and 956 mg of C-1d are obtained.

reactant | 5-methyl-2,4-dichloropyrimidine | 6.1 mmol, 1 g, 1 eq | CC=1C(=NC(=NC1)Cl)Cl | C5H4Cl2N2
reactant | Hünig base | 30.5 mmol, 5.3 mL, 5 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | (1S,2R)-2-aminocyclopentanecarboxylic acid isopropylamide | 6.1 mmol, 1.03 g, 1 eq | C(C)(C)NC(=O)[C@@H]1[C@@H](CCC1)N | C9H18N2O
solvent | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
product | (1S,2R)-2-(2-chloro-5-methyl-pyrimidin-4-ylamino)-cyclopentanecarboxylic acid isopropylamide | C(C)(C)NC(=O)[C@@H]1[C@@H](CCC1)NC1=NC(=NC=C1C)Cl | C14H21ClN4O
